US05658922
7β-Methyl-5α-4-azapregn-1-ene-3,20-dione
To a solution of 7β-methyl-5α-4-azapregnane-3,20-dione (5.5 gm, 16.6 mmol) in dry toulene (100 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 4.52 gm, 19.92 mmol) followed by bis(trimethylsilyl)trifluoroacetamide (17.6 mL, 66.4 mmol) and triflic acid (0.11 mL, 1.3 mmol). The mixture was stirred under nitrogen for 24 hr at room temperature after which methyl acetoacetate (1.8 mL, 1.66 mmol) was added and stirring continued for 4 hr followed refluxing for 48 hr. The reaction mixture was poured into water (500 mL) containing sodium bicarbonate (8 gm) and sodium sulfite (3 gm). The solution was extracted with methylene chloride (3×250 mL), washed with water, saturated salt solution, and dried over anhydrous sodium sulfate. The solvent was removed by rotoevaporation and the product purified by flash column chromatography on silica gel eluted with 10% isopropanol in hexane as eluent to the title compound (2.47 gm).

reactant | 7β-methyl-5α-4-azapregnane-3,20-dione | 16.6 mmol, 5.5 gm | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(CCC(N[C@@H]2C1)=O)C)C | C21H33NO2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 19.92 mmol, 4.52 gm | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | bis(trimethylsilyl)trifluoroacetamide | 66.4 mmol, 17.6 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | triflic acid | 1.3 mmol, 0.11 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | methyl acetoacetate | 1.66 mmol, 1.8 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium bicarbonate | 8 gm | C([O-])(O)=O.[Na+]
reactant | sodium sulfite | 3 gm | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 500 mL | O | H2O
product | 7β-Methyl-5α-4-azapregn-1-ene-3,20-dione | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(C=CC(N[C@@H]2C1)=O)C)C | C21H31NO2
